US08975415B2
To a suspension of activated zinc (3.44 g, 52.5 mmol) in Et2O-THF (50% v/v, 80 ml) under reflux was slowly added a solution of ethyl bromodifluoroacetate (8.00 g, 39.4 mmol) and N-(6-bromo-4H-spiro[chromene-3,1′-cyclopropan]-4-ylidene)-2-methylpropane-2-sulfinamide (4.68 g, 13.1 mmol) in Et2O-THF (50% v/v, 80 ml) over 40 minutes, and the mixture was stirred for 4 hours at the same temperature. After cooling, the mixture was filtrated through celite pad and washed with EtOAc. To the filtrate were added saturated aqueous NH4Cl and EtOAc. After separation, the water layer was extracted with EtOAc. The combined organic layer was dried over MgSO4 and concentrated. The residue was purified by silica gel chromatography (EtOAc:hexane=20:80-100:0) to give ethyl {6-bromo-4-[(tert-butylsulfinyl)amino]-4H-spiro[chromene-3,1′-cyclopropan]-4-yl}(difluoro)acetate (6.08 g).

reactant | ethyl bromodifluoroacetate | 39.4 mmol, 8.00 g | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
reactant | N-(6-bromo-4H-spiro[chromene-3,1′-cyclopropan]-4-ylidene)-2-methylpropane-2-sulfinamide | 13.1 mmol, 4.68 g | BrC=1C=C2C(C3(CC3)COC2=CC1)=NS(=O)C(C)(C)C | C15H18BrNO2S
solvent | Et2O THF | 80 ml | CCOCC.C1CCOC1
solvent | Et2O THF | 80 ml | CCOCC.C1CCOC1
catalyst | zinc | 52.5 mmol, 3.44 g | [Zn] | Zn
product | ethyl {6-bromo-4-[(tert-butylsulfinyl)amino]-4H-spiro[chromene-3,1′-cyclopropan]-4-yl}(difluoro)acetate | 6.08 g | BrC=1C=C2C(C3(CC3)COC2=CC1)(NS(=O)C(C)(C)C)C(C(=O)OCC)(F)F | C19H24BrF2NO4S
